US04963566
To a solution of 8-(2-benzimidazolyl)thiomethyl-1-methyl-4-oxo-1,2,3,4-tetrahydroquinoline (300 mg) in methanol (10 ml) was added gradually sodium borohydride (35 mg) at 0° C. The reaction mixture was stirred for 40 minutes at room temperature. After distilling off the solvent, the resulting residue was extracted with dichloromethane, washed with water, and dried. Then the solvent was distilled off and the resulting residue was recrystallized from ethyl acetate-n-hexane to give 8-(2-benzimidazolyl)thiomethyl-1-methyl-4-hydroxy-1,2,3,4-tetrahydroquinoline (238 mg).

reactant | 8-(2-benzimidazolyl)thiomethyl-1-methyl-4-oxo-1,2,3,4-tetrahydroquinoline | 300 mg | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1C(CCN(C21)C)=O | C18H17N3OS
reactant | sodium borohydride | 35 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 8-(2-benzimidazolyl)thiomethyl-1-methyl-4-hydroxy-1,2,3,4-tetrahydroquinoline | 238 mg | N1=C(NC2=C1C=CC=C2)SCC=2C=CC=C1C(CCN(C21)C)O | C18H19N3OS
